US06239152B1
3-(t-Butoxycarbonyl)-6-[(R)-propane-1,2-diol-3-yl]aminopyridine
A mixture of t-butyl 6-chloronicotinate (4.69 g, 0.0220 mol) and (R)-3-amino-1,2-propanediol (5.00 g, 0.0549 mol) in isopropanol (20 ml) was heated at 100° C. overnight. Solvent was removed under vacuum, and the residue taken up in ethyl acetate, washed with water, brine, dried (MgSO4), and evaporated to give nearly pure product as a yellow oil. Yield 5.90 g (99%). 1H NMR. MS: 269 [M+H]+.

reactant | t-butyl 6-chloronicotinate | 0.0220 mol, 4.69 g | ClC1=NC=C(C(=O)OC(C)(C)C)C=C1 | C10H12ClNO2
reactant | (R)-3-amino-1,2-propanediol | 0.0549 mol, 5.00 g | NC[C@H](CO)O | C3H9NO2
solvent | isopropanol | 20 ml | C(C)(C)O | C3H8O
product | 3-(t-Butoxycarbonyl)-6-[(R)-propane-1,2-diol-3-yl]aminopyridine | C(C)(C)(C)OC(=O)C=1C=NC(=CC1)NC[C@H](CO)O | C13H20N2O4
